US07820670B2
Step A: N1-(3-Bromoimidazo[1,2-b]pyridazin-6-yl)-N4,N4-dimethylbutane-1,4-diamine
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and N1,N1-dimethylbutane-1,4-diamine according to general procedure 1 providing the intermediate (300 mg, 74%) as a yellow oil: Rf=0.40 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CDCl3) δ 7.53 (d, J=9.6 Hz, 1H), 7.45 (s, 1H), 6.38 (d, J=9.6 Hz, 1H), 6.07 (brs, 1H), 3.40 (quart, J=5.2 Hz, 2H), 2.34 (t, J=6.8 Hz, 2H), 2.25 (s, 6H), 1.76 (quin, J=6.6 Hz, 2H), 1.64 (quin, J=6.8 Hz, 2H); ES-MS: (M+H)=312, 314 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | N1,N1-dimethylbutane-1,4-diamine | CN(CCCCN)C | C6H16N2
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | N1-(3-Bromoimidazo[1,2-b]pyridazin-6-yl)-N4,N4-dimethylbutane-1,4-diamine | BrC1=CN=C2N1N=C(C=C2)NCCCCN(C)C | C12H18BrN5
